US05025036
To a suspension of 0.14 g (3.5 mmol, 60% on oil) of sodium hydride in 10 mL of anhydrous dimethylformamide stirred at room temperature was added 0.88 g (3.1 mmol) of 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester. The reaction mixture was stirred for 2 hours and then 1.09 g (3.1 mmol) of 1-(6-bromohexyl)-2,3-bis(acetyloxy)benzene in 10 mL of dimethylformamide was added dropwise. Stirring at 50° was continued for 16 hours and then the solvent was removed on the oil pump. The crude product was purified by HPLC using 25% ethyl acetate-hexane to give 0.55 g (28% yield) of 4-[6-[2,3-bis(acetyloxy)phenyl]hexyloxy]-2-hydroxy-3-propylbenzoic acid phenylmethyl ester as an oil.

reactant | sodium hydride | 3.5 mmol, 0.14 g | [H-].[Na+]
reactant | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 3.1 mmol, 0.88 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
reactant | 1-(6-bromohexyl)-2,3-bis(acetyloxy)benzene | 3.1 mmol, 1.09 g | BrCCCCCCC1=C(C(=CC=C1)OC(C)=O)OC(C)=O | C16H21BrO4
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[6-[2,3-bis(acetyloxy)phenyl]hexyloxy]-2-hydroxy-3-propylbenzoic acid phenylmethyl ester | 0.55 g, 28% yield | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC(C)=O)OC(C)=O)CCC)O)=O | C33H38O8
